US05635510
30.3 Synthesis of 4-cyano-4-(naphth-2-yl)-piperidine hydrochloride
Combine 1-tert-butoxycarbonyl-4-cyano-4-(naphth-2-yl)-piperidine (3.12 mmol) and HCl in dioxane (10 mL, 40 mmol, 4N, 13 eq.) at ambient temperature for 1 h. Concentrate the solvent in vacuo and dry under high vacuum to give the title compound.

reactant | 1-tert-butoxycarbonyl-4-cyano-4-(naphth-2-yl)-piperidine | 3.12 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC2=CC=CC=C2C=C1)C#N | C21H24N2O2
reactant | HCl | Cl | ClH
reactant | dioxane | 40 mmol, 4N, 10 mL, 13 eq. | O1CCOCC1 | C4H8O2
product | 4-cyano-4-(naphth-2-yl)-piperidine hydrochloride | Cl.C(#N)C1(CCNCC1)C1=CC2=CC=CC=C2C=C1 | InChI=1S/C16H16N2.ClH/c17-12-16(7-9-18-10-8-16)15-6-5-13-3-1-2-4-14(13)11-15;/h1-6,11,18H,7-10H2;1H
